US04243674
(A) dl-Ethyl 5-Hydroxy-4-methyl-7-(1-methyl-4-phenylbutyl)coumarin-3-propionate
A mixture of 2-(3,5-dihydroxyphenyl)-5-phenylpentane (33 g., 0.13 M), (Preparation C) diethyl α-acetoglutarate (32.2 g., 0.14 M) and phosphorous oxychloride (20 g., 0.13 M), protected from atmospheric moisture, is stirred at room temperature. After 10 days, the mixture is dissolved in chloroform, washed three times with water, dried (Na2SO4), and evaporated. The residue is subjected to silica gel chromatography (eluents--9 benzene:1 ether) to yield 22 g. of the desired ester, m.p. 58°-70° C. from hexane. Further recrystallization from ethyl acetate/hexane affords an analytical sample: m.p. 78°-85° C.

reactant | 2-(3,5-dihydroxyphenyl)-5-phenylpentane | 0.13 M, 33 g | OC=1C=C(C=C(C1)O)C(C)CCCC1=CC=CC=C1 | C17H20O2
reactant | diethyl α-acetoglutarate | 0.14 M, 32.2 g | CCOC(=O)CCC(C(=O)C)C(=O)OCC | C11H18O5
reactant | phosphorous oxychloride | 0.13 M, 20 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hexane | CCCCCC | C6H14
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 5-Hydroxy-4-methyl-7-(1-methyl-4-phenylbutyl)coumarin-3-propionate | OC1=C2C(=C(C(OC2=CC(=C1)C(CCCC1=CC=CC=C1)C)=O)CCC(=O)OCC)C | C26H30O5
